US08835472B2
(S)—N-(1-(4-((1-Methyl-1H-pyrazol-4-yl) ethynyl)phenyl]ethyl}cyclopropanecarboxamide
To 100 mg (0.91 mmol) 1-methyl-1H-pyrazole-4-carbaldehyde in 1.00 mL MeOH are added 289 mg (2.09 mmol) K2CO3 and finally dropwise 349 mg (1.82 mmol) dimethyldiazo-2-oxopropylphosphonat (in 2.0 mL MeOH).The reaction mixture is stirred at r.t. over night. The reaction is quenched by the addition of water and EtOAc. The organic layer is separated, dried with Na2SO4 and the solvent is removed in vacuo. To the residue is added 286 mg (0.91 mmol) cyclopropanecarboxylic acid [1-(4-iodo-phenyl)-ethyl]amide (I52.2), 63.7 mg (0.09 mmol) bis-(triphenylphosphin)-palladiumdichlorid, 2.00 mL 2-butylamine and 2.00 mL water. The reaction mixture is stirred at r.t. over night. The mixture is diluted with water and extracted with DCM. The organic layer is dried with Na2SO4 and the solvent is evaporated in vacuo. The residue is purified consecutively by column chromatography (silica gel, DCM/MeOH 98:2) and HPLC (MeOH/H2O/NH3).

reactant | 1-methyl-1H-pyrazole-4-carbaldehyde | 0.91 mmol, 100 mg | CN1N=CC(=C1)C=O | C5H6N2O
reactant | K2CO3 | 2.09 mmol, 289 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethyldiazo-2-oxopropylphosphonat | 1.82 mmol, 2.0 mL, 349 mg | CC(C(C=[N+]=[N-])=O)(P([O-])([O-])=O)C
reactant | cyclopropanecarboxylic acid [1-(4-iodo-phenyl)-ethyl]amide | 0.91 mmol, 286 mg | IC1=CC=C(C=C1)C(C)NC(=O)C1CC1 | C12H14INO
reactant | 2-butylamine | 2.00 mL | CC(CC)N | C4H11N
solvent | MeOH | 1.00 mL | CO | CH4O
solvent | water | O | H2O
catalyst | bis-(triphenylphosphin)-palladiumdichlorid | 0.09 mmol, 63.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.00 mL | O | H2O
product | (S)—N-(1-(4-((1-Methyl-1H-pyrazol-4-yl) ethynyl)phenyl]ethyl}cyclopropanecarboxamide | CN1N=CC(=C1)C#CC1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1 | C18H19N3O
